US07026340B2
(3,3,3-Trifluoropropyl)malononitrile (0.6 g) and 2-chloro-5-chloromethylpyridine (0.6 g) were dissolved in N,N-dimethylformamide (15 ml), potassium carbonate (0.51 g) was added thereto, and the mixture was stirred overnight at room temperature. Then, to the reaction mixture was added water, and extracted with ethyl acetate. The organic layer was washed successively with water, saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue obtained was subjected to silica gel column chromatography to give 0.62 g of 2-((6-Chloro-3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (4)).

reactant | (3,3,3-Trifluoropropyl)malononitrile | 0.6 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | 2-chloro-5-chloromethylpyridine | 0.6 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-((6-Chloro-3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.62 g | ClC1=CC=C(C=N1)CC(C#N)(C#N)CCC(F)(F)F | C12H9ClF3N3
